US07199147B2
Under nitrogen, 4-[(4-methyl-1-tetrahydro-2H-pyran-2-yl-1H-indazol-5-yl)oxy]benzonitrile (338 mg, 1.01 mmol) was dissolved in 1,4-dioxane (6 ml), followed by adding thereto a 4N-hydrochloric acid/1,4-dioxane solution (6 ml), and the resulting mixture was stirred at room temperature for 23 hours. After diethyl ether (30 ml) was added thereto and stirred, the precipitate was collected by filtration, washed with diethyl ether and then dried under reduced pressure to obtain 4-[(4-methyl-1H-indazol-5-yl)oxy]benzonitrile monohydrochloride (239 mg, yield 83%).

reactant | 4-[(4-methyl-1-tetrahydro-2H-pyran-2-yl-1H-indazol-5-yl)oxy]benzonitrile | 1.01 mmol, 338 mg | CC1=C2C=NN(C2=CC=C1OC1=CC=C(C#N)C=C1)C1OCCCC1 | C20H19N3O2
reactant | hydrochloric acid 1,4-dioxane | 6 ml | Cl.O1CCOCC1
reactant | diethyl ether | 30 ml | C(C)OCC | C4H10O
solvent | 1,4-dioxane | 6 ml | O1CCOCC1 | C4H8O2
product | 4-[(4-methyl-1H-indazol-5-yl)oxy]benzonitrile monohydrochloride | 239 mg, yield 83% | Cl.CC1=C2C=NNC2=CC=C1OC1=CC=C(C#N)C=C1 | InChI=1S/C15H11N3O.ClH/c1-10-13-9-17-18-14(13)6-7-15(10)19-12-4-2-11(8-16)3-5-12;/h2-7,9H,1H3,(H,17,18);1H
